US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (217 mg, 1.13 mmol) and m-toluidine (1.50 g, 14.0 mmol) is stirred at 155° C. for 30 min. The resulting product is chromatographed over silica gel (5% MeOH/CH2Cl2) to give 7-amino-4-(3-methylanilino)pyrido[4,3-d]pyrimidine (190 mg, 67%) as a pale yellow solid. 1H NMR (DMSO) δ 9.81 (1H, brs), 9.34 (1H, s), 8.38 (1H, s), 7.60 (2H, s), 7.26 (1H, dd, J=8.5, 7.6 Hz), 6.95 (1H, d, J=7.4 Hz), 6.63 (2H, brs), 6.44 (1H, s), 2.33 (3H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.13 mmol, 217 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | m-toluidine | 14.0 mmol, 1.50 g | NC1=CC(=CC=C1)C | C7H9N
product | 7-amino-4-(3-methylanilino)pyrido[4,3-d]pyrimidine | 190 mg, 67% | NC1=CC=2N=CN=C(C2C=N1)NC1=CC(=CC=C1)C | C14H13N5
